US06110940
3-(N-Methyl-2(R)-pyrrolidinylmethyl)-5-(2-phenylsulphonylethyl)-1H-indole hydrobromide, α-form
49% w/w Hydrobromic acid (432 mg, 0.3 ml, 2.6 mmol) was added to a stirred solution of 3-(N-methyl-2(R)-pyrrolidinylmethyl)-5-(2-phenylsulphonylethyl)-1H-indole (1.0 g, 2.6 mmol) in acetone (10 ml) at room temperature. After a further 15 minutes, the reaction mixture was evaporated under reduced pressure to give a yellow liquid; the residual water therein was then azeotropically removed using 2-propanol. The resulting cloudy, yellowish oil (1.55 g) was triturated with ether and then dissolved in hot 2-propanol (25 ml); this solution, on cooling, provided the title compound (1.13 g) as a pale yellow crystalline solid after filtration, washing with 2-propanol and drying In vacuo, m.p. 165-170° C. Found: C,56.67; H,5.78; N,5.82. C22H26N2O2S; HBr requires C,57.02; H,5.87; N,6.04%.

reactant | Hydrobromic acid | 2.6 mmol, 0.3 ml, 432 mg | Br | BrH
reactant | 3-(N-methyl-2(R)-pyrrolidinylmethyl)-5-(2-phenylsulphonylethyl)-1H-indole | 2.6 mmol, 1.0 g | CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | C22H26N2O2S
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(N-Methyl-2(R)-pyrrolidinylmethyl)-5-(2-phenylsulphonylethyl)-1H-indole hydrobromide | 1.13 g | Br.CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C22H26N2O2S.BrH/c1-24-12-5-6-19(24)15-18-16-23-22-10-9-17(14-21(18)22)11-13-27(25,26)20-7-3-2-4-8-20;/h2-4,7-10,14,16,19,23H,5-6,11-13,15H2,1H3;1H/t19-;/m1./s1
